US05587379
A stirred mixture of 5.2 grams (0.017 mole) of 2,4-diamino-5-[4-(4methoxyphenyl)pentyl]-6-methylpyrimidine in 200 mL of methylene chloride was cooled to about 0 ° C., and 52 mL (0.052 mole) of boron tribromide (1M in methylene chloride) was added dropwise during a 20 minute period while maintaining the reaction mixture temperature between -5° C. and +5 ° C. Upon completion of addition, the reaction was allowed to warm to ambient temperature as it stirred for about 18 hours. After this time the reaction mixture was poured into about 200 grams of ice. The mixture was made slightly basic with concentrated ammonium hydroxide and was stirred until the ice melted. A solid precipitate was collected by filtration and dried at 60° C., yielding 4.9 grams of 2,4-diamino-5-[4-(4-hydroxyphenyl)pentyl]-6-methylpyrimidin mp 197°-201° C., dec. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-diamino-5-[4-(4methoxyphenyl)pentyl]-6-methylpyrimidine | 0.017 mole, 5.2 grams | NC1=NC(=C(C(=N1)N)CCCC(C)C1=CC=C(C=C1)OC)C | C17H24N4O
reactant | boron tribromide | 0.052 mole, 1M, 52 mL | B(Br)(Br)Br | BBr3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,4-diamino-5-[4-(4-hydroxyphenyl)pentyl]-6-methylpyrimidin | 4.9 grams | NC1=NC(=C(C(=N1)N)CCCC(C)C1=CC=C(C=C1)O)C | C16H22N4O
